US04668674
5 g of (+)-6-Chloro-5,10-dihydro-5-[(1-methyl-4-piperidinyl)-acetyl] -11H-dibenzo[b,e][1,4]diazepin-11-one-L-(+)-tart rate were dissolved in water, mixed with potash and extracted with methylene chloride. The extracts were combined and evaporated off several times with ethanol. 3.9 g (95% of theory) of (+)-6-chloro-5,10-dihydro-5-[(1-methyl-4-piperidinyl)-acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one were obtained.

reactant | (+)-6-Chloro-5,10-dihydro-5-[(1-methyl-4-piperidinyl)-acetyl] -11H-dibenzo[b,e][1,4]diazepin-11-one L-(+)-tart rate | 5 g | ClC1=CC=CC=2NC(C3=C(N(C21)C(CC2CCN(CC2)C)=O)C=CC=C3)=O.C(=O)([O-])[C@H](O)[C@@H](O)C(=O)[O-]
reactant | potash | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
product | (+)-6-chloro-5,10-dihydro-5-[(1-methyl-4-piperidinyl)-acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | 3.9 g, 95% | ClC1=CC=CC=2NC(C3=C(N(C21)C(CC2CCN(CC2)C)=O)C=CC=C3)=O | C21H22ClN3O2
